US05166406
1-[2-(4-Methoxybenzyloxycarbonyl)ethyl]1-cyclopentanecarboxylic acid
To a solution of 2-benzoyl-2-[2-(4-methoxybenzyloxycarbonyl)-ethyl]cyclohexanone (see Preparation 9) (2.16 g, 5.47 mmol) in tert-butanol (4.3 ml) was added, dropwise, a 30% aqueous solution of hydrogen peroxide (0.74 ml, 6.56 mmol) and concentrated sulphuric acid (98% w/w, one drop) at room temperature. The mixture was stirred for 48 hours, partitioned between toluene (25 ml) and 5% aqueous sodium sulphite solution and the layers separated. The toluene layer was washed with dilute aqueous ammonia solution (25 ml of 0.880 ammonia in 200 ml of distilled water, 4×25 ml). The combined aqueous extracts were washed with toluene (25 ml), acidified to pH 2-3 with 5.ON aqueous hydrochloric acid solution and extracted with toluene (3×25 ml). The combined toluene extracts were dried over magnesium sulphate, filtered and concentrated under reduced pressure to give the title compound as an oil, (0.746 g, 44.6%). RF. 0.16 silica, hexane/ethyl acetate 2:1). 1H-NMR (300 MHz, CDCl3) =1.45-1.59 (m, 2H), 1.65-1.78 (m, 4H), 1.98-2.06 (m, 2H), 2.12-2.22 (m, 2H), 2.34-2.46 (m, 2H), 3.84 (s, 3H), 5.06 (s, 2H), 6.91 (d, 2H), 7.31 (d, 2H) ppm. Analysis %: Found: C, 67.05; H, 7.18; C17 H2205 requires C, 66.65; H, 7.24.

reactant | 2-benzoyl-2-[2-(4-methoxybenzyloxycarbonyl)-ethyl]cyclohexanone | 5.47 mmol, 2.16 g | C(C1=CC=CC=C1)(=O)C1(C(CCCC1)=O)CCC(=O)OCC1=CC=C(C=C1)OC | C24H26O5
reactant | hydrogen peroxide | 6.56 mmol, 0.74 ml | OO | H2O2
solvent | tert-butanol | 4.3 ml | C(C)(C)(C)O | C4H10O
catalyst | sulphuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-[2-(4-Methoxybenzyloxycarbonyl)ethyl]1-cyclopentanecarboxylic acid | 0.746 g, 44.6% | COC1=CC=C(COC(=O)CCC2(CCCC2)C(=O)O)C=C1 | C17H22O5
